US08445487B2
4-(2-chloro-8-((4-(methylsulfonyl)piperazin-1-yl)methyl)-9H-purin-6-yl)morpholine (215 mg) was reacted with 2-bromoethylmethylether via General Procedure C to give 4-(2-chloro-9-(2-methoxyethyl)-8-((4-(methylsulfonyl)piperazin-1-yl)methyl)-9H-purin-6-yl)morpholine (207 mg) which was reacted with 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indazole via General Procedure A and purified via reverse phase HPLC to give 21.6 mg 133 as a white solid. MS (Q1) 556.3 (M)+.

reactant | 4-(2-chloro-8-((4-(methylsulfonyl)piperazin-1-yl)methyl)-9H-purin-6-yl)morpholine | 215 mg | ClC1=NC(=C2N=C(NC2=N1)CN1CCN(CC1)S(=O)(=O)C)N1CCOCC1 | C15H22ClN7O3S
reactant | 2-bromoethylmethylether | BrCCOC | C3H7BrO
product | 4-(2-chloro-9-(2-methoxyethyl)-8-((4-(methylsulfonyl)piperazin-1-yl)methyl)-9H-purin-6-yl)morpholine | 207 mg | ClC1=NC(=C2N=C(N(C2=N1)CCOC)CN1CCN(CC1)S(=O)(=O)C)N1CCOCC1 | C18H28ClN7O4S
